US04882085
40 g of dry pyridine and 15.3 g of 2-butoxypropanol were added into a four-necked flask and ice-cooled under stirring, and 35 g of p-toluenesulfonic acid chloride was added little by little to carry out the reaction for 2 hours. Then, the reaction mixture was returned to room temperature and the reaction was further carried out for 16 hours. The reaction product was added into ice-cooled 6% HCl aq. and the mixture was stirred. The mixture was then extracted with benzene and dried over anhydrous Na2SO4. Evaporation of benzene gave (2'-butoxypropyl)p-toluene sulfonate as an oily product. Yield: 33.2 g. The NMR data of this compound are shown below.

reactant | 2-butoxypropanol | 15.3 g | C(CCC)OC(CO)C | C7H16O2
reactant | p-toluenesulfonic acid chloride | 35 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | HCl | Cl | ClH
solvent | pyridine | 40 g | N1=CC=CC=C1 | C5H5N
product | (2'-butoxypropyl)p-toluene sulfonate | C(CCC)OC(COS(=O)(=O)C1=CC=C(C=C1)C)C | C14H22O4S
